US09421205B2
(g) Lithium 2-(2-(2-(2-((4-(1-(tert-butoxycarbonyl)piperidin-4-yl)phenyl)amino)-5-(trifluoromethyl)pyrimidin-4-yl)ethyl)phenyl)acetate (I48)
LiOH.H2O (0.027 g, 0.647 mmol) was added to a solution of tert-butyl 4-(4-((4-(2-(2-methoxy-2-oxoethyl)phenethyl)-5-(trifluoromethyl)pyrimidin-2-yl)amino)phenyl)piperidine-1-carboxylate (I47) (0.128 g, 0.214 mmol) in THF (7 mL), water (1.5 mL) and methanol (1 mL). The resulting mixture was allowed to stir at room temperature for 20 hours. The volatiles were removed in vacuo and the residue was diluted with EtOAc (50 mL) and sat. aq. NaHCO3 (50 mL). The layers were separated and the aqueous layer was extracted with EtOAc (2×50 mL), the organic layers were combined, washed with brine (50 mL), dried over Na2SO4, filtered and concentrated under reduced pressure to give the title compound (I48) (0.130 g) as a pale yellow viscous oil.

reactant | LiOH.H2O | 0.647 mmol, 0.027 g | O[Li].O
reactant | tert-butyl 4-(4-((4-(2-(2-methoxy-2-oxoethyl)phenethyl)-5-(trifluoromethyl)pyrimidin-2-yl)amino)phenyl)piperidine-1-carboxylate | 0.214 mmol, 0.128 g | COC(CC1=C(CCC2=NC(=NC=C2C(F)(F)F)NC2=CC=C(C=C2)C2CCN(CC2)C(=O)OC(C)(C)C)C=CC=C1)=O | C32H37F3N4O4
solvent | THF | 7 mL | C1CCOC1 | C4H8O
solvent | water | 1.5 mL | O | H2O
solvent | methanol | 1 mL | CO | CH4O
product | Lithium 2-(2-(2-(2-((4-(1-(tert-butoxycarbonyl)piperidin-4-yl)phenyl)amino)-5-(trifluoromethyl)pyrimidin-4-yl)ethyl)phenyl)acetate | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=CC=C(C=C1)NC1=NC=C(C(=N1)CCC1=C(C=CC=C1)CC(=O)[O-])C(F)(F)F.[Li+] | InChI=1S/C31H35F3N4O4.Li/c1-30(2,3)42-29(41)38-16-14-22(15-17-38)21-8-11-24(12-9-21)36-28-35-19-25(31(32,33)34)26(37-28)13-10-20-6-4-5-7-23(20)18-27(39)40;/h4-9,11-12,19,22H,10,13-18H2,1-3H3,(H,39,40)(H,35,36,37);/q;+1/p-1
